US07205301B2
2-{4-[2-(3-Chloro-phenylamino)-pyrimidin-4-yl]-pyridin-2-yl}-5-methyl-2.4-dihydro-pyrazol-3-one
A mixture of (3-Chloro-phenyl)-[4-(2-hydrazino-pyridin-4-yl)-pyrimidin-2-yl]-amine (3.14 g, 0.010 mol) and Methyl acetoacetate (1.28 g, 0.010 mol) in EtOH (30 ml) and Acetic acid (30 ml) is stirred at reflux for one hour. At room temperature the resulting precipitate is filtered with suction to yield the title compound,(3.50 g, 92%) m.p. 149–150° C.

reactant | (3-Chloro-phenyl)-[4-(2-hydrazino-pyridin-4-yl)-pyrimidin-2-yl]-amine | 0.010 mol, 3.14 g | ClC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)NN | C15H13ClN6
reactant | Methyl acetoacetate | 0.010 mol, 1.28 g | C(CC(=O)C)(=O)OC | C5H8O3
solvent | EtOH | 30 ml | CCO | C2H6O
solvent | Acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 2-{4-[2-(3-Chloro-phenylamino)-pyrimidin-4-yl]-pyridin-2-yl}-5-methyl-2.4-dihydro-pyrazol-3-one | 3.50 g, 92% | ClC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)N1N=C(CC1=O)C | C19H15ClN6O
